US04125732
Methyl(3,4-dimethylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
To a mixture of 3.05 g of 3,4-dimethylphenol, 1.19 g of sodium methoxide, 40 ml of methanol and 10 ml of benzene is added 8.27 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate. The mixture is refluxed for 24 hours and the solvent removed under reduced pressure. The residue is chromatographed over silica gel with dichloromethane as eluent. The product is obtained as a viscous oil.

reactant | 3,4-dimethylphenol | 3.05 g | CC=1C=C(C=CC1C)O | C8H10O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.27 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Methyl(3,4-dimethylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC(=C(C=C1)C)C)=O | C26H27ClO5
